US09034884B2
3-[(1-{3-Cyano-2-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propyl}piperidin-4-yl)oxy]-N-ethyl-5-fluorobenzamide
To a mixture of 3-[(1-{3-cyano-2-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propyl}piperidin-4-yl)oxy]-5-fluorobenzoic acid (18 mg, 0.029 mmol) and 2.0 M ethylamine in THF (21.8 μL, 0.0436 mmol) in methylene chloride (0.2 mL) and dimethylformamide (DMF) (50 μL) were added triethylamine (6.1 μL, 0.0436 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (19.3 mg, 0.0436 mmol). The resulting mixture was stirred overnight at room temperature and concentrated. To the residue was added saturated NaHCO3 solution then extracted with ethyl acetate (3×). The combined extracts were dried over MgSO4, filtered, and concentrated. The crude residue was dissolved in DCM (0.2 mL) and TFA (0.2 mL). The mixture was stirred for 2 hours then concentrated. To the reaction vial was added MeOH (0.5 mL) and ethylenediamine (EDA) (0.1 mL). After stirring for 1 hour, the mixture was diluted with acetonitrile and purified by preparative-LCMS (eluting with a gradient of ACN/H2O containing 0.15% NH4OH) to afford the desired product (2.7 mg, 18%). LCMS (M+H)+: 517.3.

reactant | 3-[(1-{3-cyano-2-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propyl}piperidin-4-yl)oxy]-5-fluorobenzoic acid | 0.029 mmol, 18 mg | C(#N)CC(CN1CCC(CC1)OC=1C=C(C(=O)O)C=C(C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C31H38FN7O4Si
reactant | ethylamine | 2.0 M | C(C)N | C2H7N
reactant | THF | 0.0436 mmol, 21.8 μL | C1CCOC1 | C4H8O
reactant | triethylamine | 0.0436 mmol, 6.1 μL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.0436 mmol, 19.3 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 0.2 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 50 μL | CN(C=O)C | C3H7NO
product | 3-[(1-{3-Cyano-2-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propyl}piperidin-4-yl)oxy]-N-ethyl-5-fluorobenzamide | 2.7 mg, 18% | C(#N)CC(CN1CCC(CC1)OC=1C=C(C(=O)NCC)C=C(C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C27H29FN8O2
